US06927230B2
2-{[1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl]oxy}-N,N-dimethylacetamide (467 mg, 72.6% yield) was prepared from 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol and 2-chloro-N,N-dimethylacetamide by the similar manner described for Example 18.

reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-{[1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl]oxy}-N,N-dimethylacetamide | 467 mg, 72.6% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)OCC(=O)N(C)C | C20H22N4O4
